* Subcircuit LOGIC_ADDER
.subckt LOGIC_ADDER a b cin sum carry 
* c:\esim\esim\src\subcircuitlibrary\logic_adder\logic_adder.cir
* u2  a b net-_u2-pad3_ d_and
* u4  net-_u3-pad3_ cin net-_u4-pad3_ d_and
* u3  a b net-_u3-pad3_ d_xor
* u5  net-_u3-pad3_ cin sum d_xor
* u6  net-_u2-pad3_ net-_u4-pad3_ carry d_or
a1 [a b ] net-_u2-pad3_ u2
a2 [net-_u3-pad3_ cin ] net-_u4-pad3_ u4
a3 [a b ] net-_u3-pad3_ u3
a4 [net-_u3-pad3_ cin ] sum u5
a5 [net-_u2-pad3_ net-_u4-pad3_ ] carry u6
* Schematic Name: d_and, NgSpice Name: d_and
.model u2 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_and, NgSpice Name: d_and
.model u4 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u3 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u5 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_or, NgSpice Name: d_or
.model u6 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Control Statements

.ends LOGIC_ADDER