* c:\esim\esim\src\subcircuitlibrary\mux\mux.cir

* u3  net-_u1-pad2_ net-_u2-pad2_ net-_u3-pad3_ d_and
* u4  net-_u1-pad1_ net-_u1-pad3_ net-_u4-pad3_ d_and
* u5  net-_u3-pad3_ net-_u4-pad3_ net-_u1-pad4_ d_or
* u2  net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ port
a1 [net-_u1-pad2_ net-_u2-pad2_ ] net-_u3-pad3_ u3
a2 [net-_u1-pad1_ net-_u1-pad3_ ] net-_u4-pad3_ u4
a3 [net-_u3-pad3_ net-_u4-pad3_ ] net-_u1-pad4_ u5
a4 net-_u1-pad1_ net-_u2-pad2_ u2
* Schematic Name: d_and, NgSpice Name: d_and
.model u3 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u4 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_or, NgSpice Name: d_or
.model u5 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
