* C:\esim_1\eSim\src\SubcircuitLibrary\LM565\LM565.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 03/31/19 18:47:10

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R1  +Vcc Net-_Q1-Pad1_ 7.2k		
R3  +Vcc Net-_Q14-Pad2_ 7.2k		
Q4  Net-_Q14-Pad2_ Net-_Q14-Pad2_ Net-_Q1-Pad1_ eSim_NPN		
Q5  Net-_Q1-Pad1_ Net-_Q1-Pad1_ Net-_Q14-Pad2_ eSim_NPN		
Q10  Net-_Q10-Pad1_ Net-_Q10-Pad1_ +Vcc eSim_NPN		
R4  +Vcc Net-_Q3-Pad2_ 5.7k		
R6  +Vcc Reference_output 1.75k		
R7  Reference_output Net-_Q1-Pad2_ 3.8k		
Q12  +Vcc Net-_Q1-Pad1_ Net-_Q12-Pad3_ eSim_NPN		
Q14  Vco_control_voltage Net-_Q14-Pad2_ Net-_Q14-Pad3_ eSim_NPN		
R12  +Vcc Vco_control_voltage 3.6K		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q3  Net-_Q14-Pad2_ Net-_Q3-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q7  Net-_Q1-Pad1_ Net-_Q3-Pad2_ Net-_Q7-Pad3_ eSim_NPN		
Q9  Net-_Q14-Pad2_ Net-_Q1-Pad2_ Net-_Q7-Pad3_ eSim_NPN		
R5  Net-_Q3-Pad2_ -Vcc 13k		
Q2  Net-_Q1-Pad3_ Input Net-_Q2-Pad3_ eSim_NPN		
Q8  Net-_Q7-Pad3_ Input Net-_Q2-Pad3_ eSim_NPN		
Q6  Net-_Q2-Pad3_ Net-_Q11-Pad1_ Net-_Q6-Pad3_ eSim_NPN		
R2  Net-_Q6-Pad3_ -Vcc 200		
R8  Net-_Q1-Pad2_ Net-_Q11-Pad1_ 8.1K		
R10  Net-_Q12-Pad3_ Net-_Q13-Pad1_ 1K		
R13  Net-_Q14-Pad3_ Net-_Q13-Pad1_ 1K		
Q13  Net-_Q13-Pad1_ Net-_Q11-Pad1_ Net-_Q13-Pad3_ eSim_NPN		
Q11  Net-_Q11-Pad1_ Net-_Q11-Pad1_ Net-_Q11-Pad3_ eSim_NPN		
R9  Net-_Q11-Pad3_ -Vcc 200		
R11  Net-_Q13-Pad3_ -Vcc 205		
Q16  Timming_resistor Vco_control_voltage Net-_Q15-Pad2_ eSim_NPN		
Q18  Net-_Q15-Pad2_ Net-_Q18-Pad2_ Net-_Q17-Pad1_ eSim_NPN		
Q20  Net-_Q18-Pad2_ Net-_Q18-Pad2_ Net-_Q17-Pad1_ eSim_NPN		
Q17  Net-_Q17-Pad1_ Net-_Q17-Pad1_ Net-_Q17-Pad3_ eSim_NPN		
Q21  Timing_capacitor Timing_capacitor Net-_Q17-Pad1_ eSim_PNP		
Q22  Timing_capacitor Net-_Q17-Pad3_ Net-_Q19-Pad2_ eSim_NPN		
Q19  Net-_Q17-Pad3_ Net-_Q19-Pad2_ Net-_Q19-Pad3_ eSim_NPN		
Q23  Net-_Q19-Pad2_ Net-_Q19-Pad2_ Net-_Q23-Pad3_ eSim_NPN		
R14  Net-_Q19-Pad3_ Net-_Q24-Pad1_ 530		
R15  Net-_Q23-Pad3_ Net-_Q24-Pad1_ 530		
Q25  +Vcc Timing_capacitor Net-_Q25-Pad3_ eSim_NPN		
R17  +Vcc Net-_Q28-Pad1_ 6.5K		
Q28  Net-_Q28-Pad1_ Net-_Q28-Pad1_ Net-_Q25-Pad3_ eSim_PNP		
Q27  ? Net-_Q25-Pad3_ Net-_Q27-Pad3_ eSim_NPN		
Q30  Net-_Q28-Pad1_ Net-_Q27-Pad3_ Net-_Q30-Pad3_ eSim_NPN		
Q31  ? Net-_Q28-Pad1_ Net-_Q31-Pad3_ eSim_NPN		
Q32  Net-_Q32-Pad1_ Net-_Q32-Pad1_ Net-_Q28-Pad1_ eSim_PNP		
R19  +Vcc Net-_Q32-Pad1_ 4.7k		
Q33  Net-_Q32-Pad1_ Net-_Q31-Pad3_ Net-_Q30-Pad3_ eSim_NPN		
R18  Net-_Q31-Pad3_ Net-_Q30-Pad3_ 8.4K		
Q35  +Vcc Net-_Q32-Pad1_ Vco_output eSim_NPN		
R20  Net-_Q30-Pad3_ -Vcc 2.6K		
R22  Vco_output -Vcc 4.8K		
Q24  Net-_Q24-Pad1_ Net-_Q24-Pad2_ -Vcc eSim_NPN		
Q26  Net-_Q24-Pad1_ Net-_Q24-Pad1_ Net-_Q26-Pad3_ eSim_PNP		
R16  Net-_Q24-Pad2_ -Vcc 7K		
Q29  Net-_Q26-Pad3_ Net-_Q26-Pad3_ Net-_Q24-Pad2_ eSim_NPN		
Q34  Net-_Q25-Pad3_ Net-_Q11-Pad1_ Net-_Q34-Pad3_ eSim_NPN		
R21  Net-_Q34-Pad3_ -Vcc 2.4K		
Q36  -Vcc Vco_output Net-_Q36-Pad3_ eSim_PNP		
Q38  Net-_Q37-Pad2_ Net-_Q38-Pad2_ Net-_Q36-Pad3_ eSim_PNP		
R23  +Vcc Net-_Q36-Pad3_ 16K		
R24  Net-_Q37-Pad2_ Net-_Q26-Pad3_ 5.8k		
Q37  Net-_Q36-Pad3_ Net-_Q37-Pad2_ Net-_Q26-Pad3_ eSim_NPN		
Q40  Net-_Q38-Pad2_ Net-_Q11-Pad1_ Net-_Q40-Pad3_ eSim_NPN		
R26  Net-_Q40-Pad3_ -Vcc 200		
R25  +Vcc Net-_Q38-Pad2_ 4.3k		
Q39  ? Net-_Q38-Pad2_ +Vcc eSim_NPN		
U1  -Vcc Input Input Vco_output +Vcc Reference_output Vco_control_voltage Timming_resistor Timing_capacitor +Vcc PORT		
Q15  ? Net-_Q15-Pad2_ Vco_control_voltage eSim_NPN		
Q41  Net-_Q18-Pad2_ Net-_Q15-Pad2_ Timming_resistor eSim_PNP		

.end
