* Basic logic gates test
.subckt basic_gates A B C OUT VDD GND
Xinv1 A net1 VDD GND sky130_fd_sc_hd__inv_1
Xnand1 A B net2 VDD GND sky130_fd_sc_hd__nand2_1
Xnor1 A B net3 VDD GND sky130_fd_sc_hd__nor2_1
Xand1 net1 net2 net4 VDD GND sky130_fd_sc_hd__and2_2
Xor1 net3 net4 OUT VDD GND sky130_fd_sc_hd__or2_2
.ends basic_gates
Vvdd VDD GND 1.8
Vgnd GND 0 0
.end
