* Hierarchical subcircuit test
.subckt half_adder A B Sum Cout VDD GND
Xxor1 A B Sum VDD GND sky130_fd_sc_hd__xor2_1
Xand1 A B Cout VDD GND sky130_fd_sc_hd__and2_2
.ends half_adder

.subckt full_adder A B Cin Sum Cout VDD GND
Xha1 A B s1 c1 VDD GND half_adder
Xha2 s1 Cin Sum c2 VDD GND half_adder
Xor1 c1 c2 Cout VDD GND sky130_fd_sc_hd__or2_2
.ends full_adder
Vvdd VDD GND 1.8
Vgnd GND 0 0
.end
