* Parameterized components edge case test
.subckt param_test IN OUT VDD GND
Xinv1 IN net1 VDD GND sky130_fd_sc_hd__inv_1
Xbuf1 net1 OUT VDD GND sky130_fd_sc_hd__buf_4
R1 IN net1 R=1k
C1 net1 GND C=10f
M1 OUT IN GND GND nmos W=0.5u L=0.18u
.ends param_test
Vvdd VDD GND 1.8
.end
